US03965015
Preparation of 1-octadecyl-3-(aminoethyl) urea
20 grams (0.33 moles) ethylene diamine in 200 cc ether was reacted with 5.0 gms (.0168 mole) octadecylisocyanate in 25 cc ether. A white precipitate forms which is stirred for 2 hours, filtered and washed with ether and recrystallized from 2 propane, melting point 108°-127°C.

reactant | ethylene diamine | 0.33 moles, 20 grams | C(CN)N | C2H8N2
reactant | octadecylisocyanate | .0168 mole, 5.0 gms | C(CCCCCCCCCCCCCCCCC)N=C=O | C19H37NO
solvent | ether | 200 cc | CCOCC | C4H10O
solvent | ether | 25 cc | CCOCC | C4H10O
product | 1-octadecyl-3-(aminoethyl) urea | C(CCCCCCCCCCCCCCCCC)NC(=O)NCCN | C21H45N3O
